US07517987B2
Step N: (2S)-2-(4-oxo-4H-quinazolin-3-yl)-propionic acid tert-butyl Ester
Triphenylphosphine (3.41 g, 13.0 mmol) was added portionwise to a solution of (2S)-2-(N-(2-azido-benzoyl)-N-formylamino)-propionic acid tert-butyl ester (3.437 g, 10.80 mmol) in xylene (70 mL) at room temperature. The reaction mixture was stirred at room temperature until the evolution of nitrogen ceased (approx. 1 h), and then refluxed for 20 h. The volatiles were evaporated and the residue was purified by flash chromatography (30% ethyl acetate in hexane) to afford the sub-title compound as a colorless oil (2.221 g, 75%). 1H NMR (400 MHz C6D6) δ 1.30 (3H, d), 1.34 (9H, s), 4.97 (1H, q), 7.08 (1H, m), 7.31 (1H, m), 7.81 (1H, s), 7.86 (1H, d), 8.55 (1H, m).

reactant | Triphenylphosphine | 13.0 mmol, 3.41 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2S)-2-(N-(2-azido-benzoyl)-N-formylamino)-propionic acid tert-butyl ester | 10.80 mmol, 3.437 g | C(C)(C)(C)OC([C@H](C)N(C=O)C(C1=C(C=CC=C1)N=[N+]=[N-])=O)=O | C15H18N4O4
solvent | xylene | 70 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (2S)-2-(4-oxo-4H-quinazolin-3-yl)-propionic acid tert-butyl Ester | 2.221 g, 75% | C(C)(C)(C)OC([C@H](C)N1C=NC2=CC=CC=C2C1=O)=O | C15H18N2O3
